US08835462B2
To a solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (500 mg, 1.32 mmol, 1.00 equiv) in anhydrous CH3CN (13 mL) were added 2-(trimethylsilyl)phenyl trifluoromethanesulfonate (0.480 mL, 1.98 mmol, 1.50 equiv) followed by CsF (500 mg, 3.29 mmol, 2.50 equiv). The resulting mixture was stirred at room temperature for 2 d. The reaction was then poured into ½ sat'd NaCl solution (20 mL), extracted with EtOAc (3×20 mL), and the combined organic extracts were dried over MgSO4, filtered, and concentrated to provide an oily yellow suspension. This was purified by automated silica gel column chromatograpy to provide tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-phenoxy-1,5-dioxonan-3-yl)carbamate (69 mg, 11%) as an amorphous light yellow solid: 1H NMR (400 MHz, CDCl3) δ 7.34-7.20 (m, 5H), 7.20-7.04 (m, 4H), 7.02-6.88 (d, J=8.7 Hz, 4H), 5.20-5.02 (dq, J=9.1, 6.4 Hz, 2H), 4.71-4.57 (m, 1H), 4.37-4.21 (t, J=8.9 Hz, 1H), 4.00-3.88 (dd, J=11.6, 7.3 Hz, 1H), 3.60-3.44 (s, 2H), 3.38-3.21 (m, 1H), 3.07-2.93 (dd, J=13.6, 3.1 Hz, 1H), 2.37-2.21 (t, J=12.5 Hz, 1H), 2.22-2.09 (m, 1H), 1.46-1.40 (s, 9H), 1.40-1.34 (d, J=6.4 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 172.29, 159.20, 154.98, 139.50, 129.75, 129.11, 128.42, 126.19, 121.34, 115.48, 81.96, 80.19, 75.39, 72.88, 72.08, 52.98, 47.56, 35.29, 28.29, 18.98; ESIMS m/z 478.6 ([M+Na]+).

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 1.32 mmol, 500 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(OC(C)(C)C)=O | C20H29NO6
reactant | 2-(trimethylsilyl)phenyl trifluoromethanesulfonate | 1.98 mmol, 0.480 mL, 1.50 equiv | FC(S(=O)(=O)OC1=C(C=CC=C1)[Si](C)(C)C)(F)F | C10H13F3O3SSi
reactant | CsF | 3.29 mmol, 500 mg, 2.50 equiv | [F-].[Cs+]
reactant | NaCl | 20 mL | [Na+].[Cl-]
solvent | CH3CN | 13 mL | CC#N | C2H3N
product | tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-phenoxy-1,5-dioxonan-3-yl)carbamate | 69 mg, 11% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OC1=CC=CC=C1)C)=O)NC(OC(C)(C)C)=O | C26H33NO6
